US07981903B2
Step B/Example 92 (Alternative Preparation): 2,4-difluoro-6-[(2-{[2-(methyloxy)-4-(1-propyl-4-piperidinyl)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide
2,4-difluoro-6-({2-{[2-(methyloxy)-4-(1-propyl-4-piperidinyl)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (9.5 g, 13.7 mmol) was dissolved in tetrahydrofuran (100 mL) and dioxane (400 mL). A solution of KOH (35 g) in water (100 mL) was added to the reaction mixture. The mixture was heated to reflux overnight, and cooled. The organic layer was separated, dried over sodium sulfate, filtered, and adsorbed over silica. Purification by flash silica gel chromatography with a gradient from 10 to 100% of a 20:20:2:58 mixture of THF/MeOH/NH4OH/DCM in DCM provided the required product which was contaminated with ˜15% p-toluene sulfonic acid. The residue was dissolved in THF (˜400 mL) and refluxed to dissolve most of the solid. The mixture was cooled and then washed with 2 N aqueous NaOH. The separated clear organic layer was dried over sodium sulfate, filtered and concentrated. The solid obtained was recrystallized with 20% MeOH in DCM to obtain 2,4-difluoro-6-[(2-{[2-(methyloxy)-4-(1-propyl-4-piperidinyl)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide (5.8 g, 79%). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.85 (t, J=7.4 Hz, 3H), 1.40-1.50 (m, 2H), 1.60-1.78 (m, 4H), 1.89-1.98 (m, 2H), 2.20-2.27 (m, 2H), 2.37-2.46 (m, 1H), 2.91-2.98 (m, 2H), 3.83 (s, 3H), 6.22 (dd, J=3.4, 1.9 Hz, 1H), 6.77 (dd, J=8.3, 1.6 Hz, 1H), 6.89 (d, J=1.6 Hz, 1H), 6.93 (ddd, J=11.4, 9.0, 2.6 Hz, 1H), 7.00 (dd, J=3.5, 2.2 Hz, 1H), 7.65 (s, 1H), 7.98 (d, J=8.1 Hz, 1H), 8.03 (br. s., 1H), 8.17 (s, 1H), 8.53 (d, J=11.4 Hz, 1H), 11.08 (s, 1H), 11.42 (s, 1H); ESIMS (M+H)+=536.

reactant | 2,4-difluoro-6-({2-{[2-(methyloxy)-4-(1-propyl-4-piperidinyl)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 13.7 mmol, 9.5 g | FC1=C(C(=O)N)C(=CC(=C1)F)NC=1C2=C(N=C(N1)NC1=C(C=C(C=C1)C1CCN(CC1)CCC)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C35H37F2N7O4S
reactant | KOH | 35 g | [OH-].[K+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 2,4-difluoro-6-[(2-{[2-(methyloxy)-4-(1-propyl-4-piperidinyl)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | FC1=C(C(=O)N)C(=CC(=C1)F)NC1=C2C(NC(=N1)NC1=C(C=C(C=C1)C1CCN(CC1)CCC)OC)=NC=C2 | C28H31F2N7O2
